Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr ___ is an ___ year old man with history of hypertension, 
COPD BPH s/p photovaporization of the prostate, presenting  
with worsening dyspnea for the last week.  
.  
Patient reports that he has had COPD for many years and has 
dyspnea on exertion. Starting one week ago however, patient 
began feeling more short of breath with less activity. Patient 
also started having difficulty laying flat at night and for the 
past two nights had to sleep sitting up in a chair. He reports a 
cough with some yellowish sputum, but denies any fevers, chills, 
nausea, vomiting or diarrhea. Mr ___ is not on supplemental 
oxygen at home. He denies any recent travel or known sick 
exposures. Patient started prednisone at home per his PCP 
instructions, however his symptoms did not improve. PCP office 
instructed patient to present to ED for further evaluation.  
.  
In the ED, Temp 97.7, HR 122, BP 151/80 and RR 32 at 2L NC with 
96% saturation. Patient however remained tachypneic with 
increasing supplemental oxygen doses, and eventually was placed 
on Bipap at 30% FIO2 at ___ with good respose in symptoms. 
Patient was given IV solumedrol, Ceftriaxone and azithromycin, 
aspirin, and admitted to ICU for further management.  
Review of systems is otherwise unremarkable.  

 
Past Medical History:
COPD(last PFT's with FEV1 54% predicted on ___
HTN
BPH- Impression:of UDS- ___
1. Bladder outlet obstruction with fairly weak detrusor. (grade
___ obstruction)./Confirmed with cystoscopy in ___. Normal bladder compactly and compliance.
3. Some detrusor over activity.
Colonoscopy in ___ + adenomas

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
GENERAL: Pleasant, well appearing in moderated NAD  
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No 
LAD, No thyromegaly.  
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, 
rubs or ___. JVP= >20 cm (at mandible)  
LUNGS: Diffuse expiratory wheezes bilaterally,  
ABDOMEN: NABS. Soft, NT, ND. No HSM  
EXTREMITIES: 3+ edema of lower extremities, Left > Right. 2+ 
dorsalis pedis/ posterior tibial pulses.  
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. ___ reflexes, 
equal ___. Normal coordination. Gait assessment deferred  
PSYCH: Listens and responds to questions appropriately, pleasant 
 

 
Pertinent Results:
___ 04:00PM BLOOD WBC-13.7*# RBC-3.82* Hgb-10.8* Hct-32.5* 
MCV-85 MCH-28.1 MCHC-33.1 RDW-14.0 Plt ___
___ 09:30AM BLOOD WBC-12.1* RBC-3.16* Hgb-9.1* Hct-26.7* 
MCV-85 MCH-28.9 MCHC-34.2 RDW-14.8 Plt ___
___ 04:00PM BLOOD Neuts-91.4* Lymphs-5.6* Monos-2.8 Eos-0.2 
Baso-0
___ 09:30AM BLOOD Glucose-106* UreaN-55* Creat-2.5* Na-141 
K-4.5 Cl-103 HCO3-27 AnGap-16
___ 04:00PM BLOOD CK(CPK)-560*
___ 09:30AM BLOOD CK(CPK)-375*
___ 12:57AM BLOOD CK-MB-18* MB Indx-4.5 cTropnT-0.23*
___ 09:30AM BLOOD CK-MB-13* MB Indx-3.5 cTropnT-0.19*
___ 04:00PM BLOOD CK-MB-33* MB Indx-5.9 proBNP-___*
___ 09:30AM BLOOD Calcium-8.4 Phos-4.3 Mg-1.5*
___ 08:42PM BLOOD Type-ART pO2-50* pCO2-50* pH-7.37 
calTCO2-30 Base XS-1
___ 09:21PM BLOOD Type-ART pO2-218* pCO2-38 pH-7.43 
calTCO2-26 Base XS-1
___ 04:38PM BLOOD Lactate-2.7*

Urine and blood cultures neg/pending

___ ECHO:
The left atrium is moderately dilated. There is mild symmetric 
left ventricular hypertrophy. The left ventricular cavity is 
mildly dilated. There is mild regional left ventricular systolic 
dysfunction with mild inferior wall hypokinesis. Overall left 
ventricular systolic function is low normal (LVEF 50-55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is moderately dilated at the sinus level. The aortic 
valve leaflets are moderately thickened. There is moderate to 
severe aortic valve stenosis (area 0.8-1.0cm2). Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Moderate to severe (3+) mitral regurgitation is seen. 
The tricuspid valve leaflets are mildly thickened. Moderate [2+] 
tricuspid regurgitation is seen. There is moderate pulmonary 
artery systolic hypertension. Significant pulmonic regurgitation 
is seen. There is a trivial/physiologic pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
the left ventricular function is low normal with worsened mitral 
regurgitation and aortic stenosis.  
 
Brief Hospital Course:
___ year old man with history of COPD, presenting with acute 
respiratory distress  
.  
#. RESPIRATORY DISTRESS: Pt was initially treated for COPD 
exacerbation with IV steroids, nebs and antibiotics. By the next 
day, pt was able to be weaned from bipap to 3L NC and was 
satting comfortably in the mid ___.  Given elevation in troponin 
however and evidence of mild pulmonary edema on CXR and 
peripheral edema, there was concern for CHF. A TTE confirmed 
worsening valvular disease compared to ECHO preformed several 
months prior.  Pt. was seen by cardiology who recommended BB if 
tol. by COPD, no other interventions.  They felt he was 
euvolemic at the time of examination and recommended against 
further diuresis. 
.  
#. NSTEMI: Pt's troponin peaked at .23 on admission. He had had 
no prior known cardiac disease, and was never seen by a 
cardiologist. EKGs were repeatedly at baseline. He was treated 
with full dose aspirin, statin and was started on low dose beta 
blocker with holding parameters at HR <70 to avoid poor filling. 
Pt was seen by cardiology who felt he was medically optimized. 
.  
#. CHRONIC RENAL INSUFFICIENCY: Pt remained at his recently new 
baseline of 2.5. 

#. Hypertension: Home BP meds were intially held as his regimen 
was adjusted for new worsening valvular disease and NSTEMI. 

 
Medications on Admission:
- Lipitor  
- Flomax  
- Combivent  
- HCTZ  
- Finasteride  
- Omeprazole  
- Prednisone taper (started 2 days ago)  
- Norvasc  
- Flovent 

 
Discharge Medications:
1. Docusate Sodium 50 mg/5 mL Liquid Sig: Five (5) mL PO BID (2 
times a day) as needed for constipation.
Disp:*60 mL* Refills:*0*
2. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation every six (6) hours.
Disp:*2 inhalers* Refills:*2*
3. Atrovent HFA 17 mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation every six (6) hours.
Disp:*2 inhalers* Refills:*0*
4. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
5. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
6. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
7. Finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
8. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).
Disp:*30 Capsule, Sust. Release 24 hr(s)* Refills:*0*
9. Prednisone 20 mg Tablet Sig: as per taper, below Tablet PO 
DAILY (Daily) for 4 days: ___: two tablets
___: one tablet
___: one tablet
___: one tablet
then stop.
Disp:*5 Tablet(s)* Refills:*0*
10. Azithromycin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 2 days: ___ and ___ then stop.
Disp:*2 Tablet(s)* Refills:*0*
11. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*0*
12. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.
Disp:*30 Tablet(s)* Refills:*0*
13. Fluticasone 220 mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation twice a day.
Disp:*1 inhaler* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
COPD exacerbation
NSTEMI
 
Discharge Condition:
Stable
 
Discharge Instructions:
Return to the ___ Emergency Room for acute chest pain or 
worsening shortness of breath.
 
Followup Instructions:
___